US05872139
A mixture of the above 2-bromomethyl-5-nitrobenzofuran (1.57 g, 6.13 mmol), potassium phthalimide (1.70 g, 9.19 mmol), and 18-crown-6 (0.161 g, 0.61 mmol) was stirred in acetonitrile (15 mL) overnight at room temperature. The solvent was removed by vacuum, and the residue was partitioned between ethyl acetate and brine. The organic phase was washed with 0.1N sodium hydroxide (2×50 mL) then brine (2×50 mL), dried (MgSO4) and concentrated to afford an off-white solid. The crude product was triturated with cold ethyl acetate/diethyl ether/hexane to afford 1.47 g (74%) of phthalimide adduct as a white solid: 1H NMR (DMSO-d6): δ 8.55 (d, 1H), 8.17 (dd, 1H), 7.88 (m, 4H), 7.75 (d, 1H), 5.00 (s, 2H).

reactant | 2-bromomethyl-5-nitrobenzofuran | 6.13 mmol, 1.57 g | BrCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H6BrNO3
reactant | potassium phthalimide | 9.19 mmol, 1.70 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | 18-crown-6 | 0.61 mmol, 0.161 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | phthalimide | 1.47 g, 74% | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
